US05616599
4-Isobutyryl-2-propylimidazole-5-carbonitrile
Following a procedure similar to that described in Preparation 23(i), but using 8.24 g of 2-propylimidazole-4,5-dicarbonitrile (prepared as described in Preparation 10) and 103 ml of a 2M solution of isopropylmagnesium iodide in diethyl ether, 45.0 g of the title compound were obtained as crystals, melting at 90.5°-91° C.

reactant | 2-propylimidazole-4,5-dicarbonitrile | 8.24 g | C(CC)C=1NC(=C(N1)C#N)C#N | C8H8N4
reactant | isopropylmagnesium iodide | C(C)(C)[Mg]I
reactant | diethyl ether | C(C)OCC | C4H10O
product | 4-Isobutyryl-2-propylimidazole-5-carbonitrile | 45.0 g | C(C(C)C)(=O)C=1N=C(NC1C#N)CCC | C11H15N3O
